US06548538B2
1,1-Dimethylethyl 2-[[4-[2-[(2-furanylmethyl)amino]ethyl]phenyl]thio]-2-methyl-propanoate
4.0 g of 1,1-dimethylethyl 2-[[4-(2-aminoethyl)phenyl]thio]-2-methyl-propanoate [(P. J. Brown et al., J. Med. Chem. 42, 3785-88 (1999)] are dissolved in 100 ml of methanol and treated with 2.6 g of furfural. 9.3 ml of glacial acetic acid are added and the mixture is boiled briefly (10 min). The mixture is then cooled to 0° C., and 4.25 g of sodium cyanoborohydride are added a little at a time. The mixture is then stirred at room temperature overnight. 1 N HCl is added until the mixture is acidic, and the mixture is stirred for 30 min. The mixture is concentrated slightly and made basic using sat. NaHCO3 solution. The mixture is then extracted twice with ethyl acetate and the extracts are washed (sat. NaCl solution) and dried and concentrated. Chromatographic purification (dichloromethane/methanol 15+1) gives 2.4 g of the title compound as a colourless oil.

reactant | 1,1-dimethylethyl 2-[[4-(2-aminoethyl)phenyl]thio]-2-methyl-propanoate | 4.0 g | NCCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C | C16H25NO2S
reactant | furfural | 2.6 g | C(C1=CC=CO1)=O | C5H4O2
reactant | sodium cyanoborohydride | 4.25 g | C(#N)[BH3-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 9.3 ml | C(C)(=O)O | C2H4O2
product | 1,1-Dimethylethyl 2-[[4-[2-[(2-furanylmethyl)amino]ethyl]phenyl]thio]-2-methyl-propanoate | 2.4 g | O1C(=CC=C1)CNCCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C | C21H29NO3S
